Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
intraparenchymal hemorrhage
 
Major Surgical or Invasive Procedure:
extubation (intubation done at outside hospital)
PEG placement
 
History of Present Illness:
___ is an ___ M with h/o AFib on Coumadin who is
transferred from ___ where he presented with
dysarthria and L hemiparesis, found to have R basal ganglia IPH. 


Per ___ notes, pt was in his USOH this morning at 6:45am. He is
currently residing at acute rehab after recent OSH admission for
mechanical fall. At 7:30am, staff checked on him and found him
dysarthric with dense L hemiparesis. He was brought to ___,
where BP on arrival was 127/80, INR 2.1. Exam showed extreme R
gaze deviation, left facial droop and left hemiplegia, initially
awake and alert and following commands. Stat NCHCT showed large 
R
basal ganglia hemorrhage. He received Profil 9, 2 units FFP, 10
units vit K, Keppra 1g IV. He became sleepy in the ___ so was
induced with rocuronium/fent/midaz and intubated for airway
protection. Transferred to ___ for further care. On arrival to
___ ___, SBP initially ~100, then became hypotensive to SBP
___ so Propofol was stopped. Neurology was consulted for
assistance with management. 

Of note pt was recently admitted to ___ from ___ after 
a
mechanical fall at home resulting in R rib fracture, then sent 
to
acute rehab on discharge. Had reportedly been doing well at 
rehab
until today. At baseline he is apparently very independent, 
lives
alone and performs all ADLs independently. 

Neuro and General ROS: unable to obtain

 
Past Medical History:
- AFib on Coumadin
- Recent admission to ___ for fall, w R rib fx and also 
suspected ileus
 
Social History:
___
Family History:
Son had a pulmonary embolism due to provoked DVT and then 
subsequent DVT without clear cause, now anticoagulated for life. 
Other family history unknown.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
- Vitals: 97.3, BP 100-68/50s-80s, P ___, SaO2 100% vent 40% 
FiO2
- General: intubated, off sedation x 30 min
- HEENT: NC/AT
- Neck: Supple, no carotid bruits appreciated.
- Pulmonary: CTABL
- Cardiac: RRR, no murmurs
- Abdomen: soft, nontender, nondistended
- Extremities: no edema, pulses palpated
- Skin: no rashes or lesions noted.
NEURO EXAM:
- Mental Status: intubated, off sedation x 15 min. Doesn't open 
eyes to voice or sternal rub. Initially very sleepy and didn't 
follow any commands, later followed commands to squeeze hand/let 
go and wiggle toes on left. No evidence of neglect.
- Cranial Nerves: Pupils initially 2mm and sluggish, then 
developed fluctuating anisocoria (L pupil ranging from 2-5mm in 
size). No corneals. Face symmetric but limited by ETT. VORs 
sluggish. No cough or gag.
- Motor/Sensory: Withdraws right arm and leg purposefully to 
noxious stim and intermittently follows commands on the right. 
Extensor posturing of LUE to noxious stim, LLE weakly extensor 
posturing. Occasional rigor-like movements diffusely.
- Reflexes: sluggish (1+) and symmetric in upper extrem, absent 
in lower extremities.
- Coordination/Gait: unable to assess 

==================================================

DISCHARGE PHYSICAL EXAM: Oriented x 3. Dysarthric. Left sided 
neglect, starting to recognize left hand as his own. Left 
hemiplegia. Right gaze preference, but able to cross midline.
 
Pertinent Results:
ADMISSION LABS: 
___ 11:10AM BLOOD WBC-5.4 RBC-4.29* Hgb-14.0 Hct-42.2 
MCV-98 MCH-32.5* MCHC-33.1 RDW-13.4 Plt ___
___ 11:10AM BLOOD Neuts-75.0* Lymphs-14.0* Monos-5.0 
Eos-4.1* Baso-1.9
___ 11:10AM BLOOD ___ PTT-33.8 ___
___ 11:10AM BLOOD Glucose-125* UreaN-14 Creat-0.6 Na-140 
K-3.4 Cl-103 HCO3-22 AnGap-18
___ 02:15AM BLOOD ALT-24 AST-27 AlkPhos-87 TotBili-0.6
___ 02:15AM BLOOD Calcium-8.1* Phos-2.9 Mg-1.7
___ 04:59PM BLOOD Osmolal-296
___ 02:15AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 11:35AM BLOOD Lactate-1.1

URINE: 
___ 11:10AM URINE Color-Straw Appear-Clear Sp ___
___ 11:10AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 11:30AM URINE bnzodzp-POS barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG

==============================================

IMAGING: 

CT HEAD ___: Acute parenchymal hemorrhage which appears to 
originate in the right centrum semiovale with associated rim of 
edema and mass effect is unchanged compared to OSH examination 
obtained roughly 5 hours earlier.  No new focus of hemorrhage. 
NOTE ADDED IN ATTENDING REVIEW: The large hemorrhage, above, 
appears centered in the right corona radiata, and could relate 
either to underlying hypertension or cerebral amyloid 
angiopathy; the lack of an intraventricular component favors the 
latter, as does the paucity of sequelae of chronic small vessel 
ischemic disease.  There is no central herniation.

CT HEAD ___: Large right putaminal hematoma has minimally 
increased in size and there is a minimal increase in midline 
shift to the left.  Basilar cisterns remain patent.

CXR ___: As compared to the previous radiograph, the lung 
volumes have 
slightly decreased.  There is moderate cardiomegaly and 
tortuosity of the 
thoracic aorta.  Minimal bilateral symmetrical apical 
thickening.  The course of the nasogastric tube is unremarkable. 
 The tube should be slightly advanced, given that the sidehole 
is at the level of the gastroesophageal junction.  No evidence 
of pneumonia or other pathologic parenchymal process.  The 
endotracheal tube has been removed in the interval. 

CT head ___: 
IMPRESSION: 
1.  No significant interval change in the large right 
parenchymal hemorrhage 
with surrounding edema centered in the basal ganglia. 
2.  Stable 4-mm leftward midline shift. 
3.  No evidence of obstructive hydrocephalus. 
  

TTE: 
The left atrium is mildly dilated. The right atrium is 
moderately dilated. No atrial septal defect is seen by 2D or 
color Doppler. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >55%). There 
is no ventricular septal defect. The right ventricular cavity is 
mildly dilated with normal free wall contractility. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. No masses or vegetations are 
seen on the aortic valve. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. No mass or 
vegetation is seen on the mitral valve. Moderate (2+) mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. There is mild pulmonary artery systolic hypertension. 
  

Swallow evaluation ___:
RECOMMENDATIONS: 
1. PO Diet: Nectar-thick liquids and pureed solids when 
optimally
awake/alert
2. Meds crushed in applesauce or other pureed solid
3. TID Oral care if taking POs, Q4 if NPO
4. 1:1 supervision with strict aspiration precautions: 
    - sit fully upright during/30 min after PO intake
    -feed only when awake, alert, and participatory
    -small bites and sips
    -slow pace
5. Encourage further discussion of long-term non-oral nutrition,
hydration and medication 
 
==============================================

 
Brief Hospital Course:
Mr. ___ is an ___ year-old man with a history of afib on 
___ transferred to ___ from ___ after 
developing dense left hemiparesis and slurred speech, found to 
have large right basal ganglia IPH with midline shift.  While at 
the OSH, his anticoagulation (INR 2.1) was reversed with Profil 
9, 2units FFP and 10u vit K. He was intubated for airway 
protection at the OSH.  

# NEURO - right basal ganglia intraparenchymal bleed
At ___, he was monitored closely in the Neuro ICU from ___ 
through ___.  Exam most notable for left hemiparesis, rightward 
gaze deviation and eyelid opening apraxia.  Repeat CT head scans 
showed stable intraparenchymal hemorrhage in the right basal 
ganglia (roughly 6x3cm) with rim edema and slight midline shift 
(4mm).  Etiology of bleed was thought to be related to either 
underlying hypertension or cerebral amyloid angiopathy. No 
neurosurgical intervention was indicated.  He was successfully 
extubated on ___.  He intially required an NG tube for enteral 
tube feeding and medications. He then passed swallowing eval and 
tolerated a diet of puree and nectar thicken with aspiration 
precautions. However, given concerns over not taking in enough 
oral nutrition, the patient and his family agreed for PEG 
placement as well to supplement oral nutrition. He will need 
continual ___ to improve function and to reduce chance of 
contractures. Warfarin will likely be indefinitely held due to 
the ICH. He has been started on aspirin 81mg daily for stroke 
prevention given his atrial fibrillation.

# ___ - h/o atrial fibrillation
He has a lonstanding history of atrial fibrillation, rate 
controlled on diltiazem and previously anticoagulated with 
Coumadin.  His anticoagulation was reversed at OSH.  Home rate 
control with diltiazem was continued.  Dilt was switched to 
standing IV Metoprolol IV because of his ileus and then C diff 
colitis (see below). There was no evidence of RVR or cardiac 
decompensation.  Anticoagulation is likely going to be 
indefinitely held given his sizable intraparenchymal bleed in 
the setting of INR of only 2.1. He was started on aspirin 81mg 
daily in place of the warfarin. He takes dilt ER 240 daily at 
home but has been taking 30mg qid via PEG tube with HR running 
in the 90's. The dilt dose may be up-titrated as needed and as 
tolerated by his BP.

# ID: gram positive bacteremia and UTI. C diff colitis.
History of right toe cellulitis previously on dicloxacillin.  
This was restarted while inpatient and then discontinued.  His 
UTI is treated with 7 days of ceftriaxone.  His gram positive 
bactermia was treated with vancomycin (started on ___ and 
should be continued for 14 days.  He was also found to have C 
diff colitis on ___ and was started on PO vancomycin.

#GI: Ileus
He was noted to have large residual on TF. KUB identified ileus. 
 His NGT was placed to suction for 2 days.  He clinically 
improved and passed swallow eval and diet was advanced to puree 
and nectar thicken.

# PULMONARY
He was intubated for airway protection and easily extubated on 
___.    

# MSK
Recent right rib fracture after mechanical fall.  He was on 
standing tylenol for a few days for pain control and 
occasionally require oxycodone.

# TRANSITIONAL ISSUES:  
- His son, ___, and daughter, ___, live in ___. 
- His IV vancomycin for gram positive bactermia should be 
continued through ___.
- His PO vancomycin for C diff colitis should be continued 
through ___.
- He takes dilt ER 240 daily at home but has been taking 30mg 
qid via PEG tube with HR running in the 90's. The dilt dose may 
be up-titrated as needed and as tolerated by his BP.

AHA/ASA Core Measures for Intracerebral Hemorrhage

1. Dysphagia screening before any PO intake? (x) Yes [performed 
and documented by admitting resident] – () No

2. DVT Prophylaxis administered by the end of hospital day 2? 
(x) Yes - () No

3. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]

4. Stroke education given (written form in the discharge 
worksheet)? (x) Yes - () No
(stroke education = personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup)

5. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No [if no, reason not assessed: ____ ]
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diltiazem Extended-Release 240 mg PO DAILY 
___  MD to order daily dose PO DAILY16 
3. DiCLOXacillin 500 mg PO Q12H 
4. Senna 8.6 mg PO DAILY:PRN constipation 
5. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. Senna 8.6 mg PO DAILY:PRN constipation 
3. Aspirin 81 mg PO DAILY 
4. Vancomycin 1000 mg IV Q 12H  - end date ___
5. Vancomycin Oral Liquid ___ mg PO Q6H - end date ___ 
6. Diltiazem 30 mg PO QID - It can be up-titrated in the future, 
not yet at previous home dose  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right putamen intraparenchymal hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.
Neuro exam: left sided hemiplegia and neglect.

 
Discharge Instructions:
Dear Mr. ___,

You were in ___ because of left arm and leg weakness due to a 
bleed in the right side of your brain likely caused by high 
blood pressure.  Your warfarin was discontinued to reduce the 
chance of future bleeds.  Physical therapy worked with you here 
and recommended rehab to help with your recovery.

Medication changes:
- we discontinued warfarin because you had a bleed in your brain
- we started aspirin 81mg daily to replace your warfarin
- we change the dose of your diltiazem to 30mg four times a day 
which can be given through the PEG tube
- we started IV vancomycin for your blood stream infection. 
Please take until ___
- we started PO vancomycin for your C diff colitis. Please take 
until ___

Please continue to the take medications as listed in the 
discharge medication list.

Please seek medical attention if you experience any of the 
danger signs listed
 
Followup Instructions:
___